US08440689B2
A. Methyl 6-(cis-4-Aminotetrahydrofuran-3-ylamino)-4-cyano-2-(m-tolylamino)nicotinate
To a solution of methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate (40 mg, 0.133 mmol) in DMF (1 mL) was added DIPEA (0.046 mL, 0.265 mmol) and (3R,4S)-tetrahydrofuran-3,4-diamine (13.54 mg, 0.133 mmol). The mixture was stirred at RT overnight. Additional amine was added and the reaction mixture was stirred at RT for an additional day. The reaction mixture was diluted in MeOH (10 mL) and purified by reverse phase preparative HPLC. The fractions were collected and ACN was removed via rotary evaporation. The resulting aq solution was neutralized with saturated aq NaHCO3 and washed with EtOAc (2×200 mL), dried over Na2SO4, and filtered. The organic phase was stripped to dryness via rotary evaporation to yield the title compound (35.5 mg, 73%). [M+H] calc'd for C19H21N5O3, 368. found, 368.

reactant | methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate | 0.133 mmol, 40 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C15H12ClN3O2
reactant | DIPEA | 0.265 mmol, 0.046 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (3R,4S)-tetrahydrofuran-3,4-diamine | 0.133 mmol, 13.54 mg | O1C[C@@H]([C@@H](C1)N)N | C4H10N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 10 mL | CO | CH4O
product | Methyl 6-(cis-4-Aminotetrahydrofuran-3-ylamino)-4-cyano-2-(m-tolylamino)nicotinate | 35.5 mg, 73% | N[C@@H]1[C@@H](COC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C19H21N5O3
